US07482350B2
Step 3. Preparation of N-{[2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidin-4-yl]methyl}acetamide
To a vial containing (1S)-N-{[4-(aminomethyl)-2-(2,6-diethylphenyl)-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine (9 mg, 0.021 mmol) in CHCl3 (2.0 mL) is added acetic anhydride (0.05 mL, 25.0 eq., 0.53 mmol) and allowed to stir at room temperature for 2 h. All solvent is then removed and excess acetic anhydride is removed azeotropically with toluene (3×2 mL). The sample is re-dissolved in CHCl3 and eluted through a plug of SiO2, washing with CHCl3. Concentration affords the title compound as a colorless gum. [mass expected (470.65); mass found (470.34)].

reactant | (1S)-N-{[4-(aminomethyl)-2-(2,6-diethylphenyl)-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine | 0.021 mmol, 9 mg | NCC1=NC(=NC(=C1CN([C@H]1CCCC2=CC=CC=C12)C)C)C1=C(C=CC=C1CC)CC | C28H36N4
reactant | acetic anhydride | 0.53 mmol, 0.05 mL, 25.0 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | CHCl3 | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{[2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidin-4-yl]methyl}acetamide | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)CNC(C)=O)CN([C@H]1CCCC2=CC=CC=C12)C)C | C30H38N4O
